US06521643B1
To a solution of methylamine in tetrahydrofuran (2M, 11 ml) was added 1-fluoro-4-(4-methoxypyridin-2-yl)-2-nitrobenzene (289 mg). The mixture was stirred at ambient temperature for 2 hours and poured into water. The precipitate was collected by filtration and dried to give 1-methylamino-4-(4-methoxypyridin-2-yl)-2-nitrobenzene (280 mg).

reactant | methylamine | CN | CH5N
reactant | 1-fluoro-4-(4-methoxypyridin-2-yl)-2-nitrobenzene | 289 mg | FC1=C(C=C(C=C1)C1=NC=CC(=C1)OC)[N+](=O)[O-] | C12H9FN2O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 2M, 11 ml | O1CCCC1 | C4H8O
product | 1-methylamino-4-(4-methoxypyridin-2-yl)-2-nitrobenzene | 280 mg | CNC1=C(C=C(C=C1)C1=NC=CC(=C1)OC)[N+](=O)[O-] | C13H13N3O3
